US06515002B2
5-Methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxamidine Hydrochloride HCl
5-Methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxamidine hydrochloride: Methyl 5-methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxylate (80.3 mg, 0.242 mmol, as prepared in the previous step) was treated according to the procedure in Example 10, step (b) using 155 mg (2.90 mmol) of ammonium chloride in 1.45 mL of toluene and 1.45 mL (2.90 mmol) of 2 M trimethylaluminum in toluene. The resulting light yellow solid was chromatographed on a 5 g silica SPE column (Waters Sep-Pak) with 10% MeOH—CH2Cl2 to give a light yellow resin. Crystallization from MeOH—Et2O (ca. 1:3) afforded the title compound as a yellow solid (62.2 mg, 82%). 1H-NMR (300 MHz, DMSO-d6) δ 9.39 (broad s, 2H), 8.97 (broad s, 2H), 8.78 (s, 1H), 8.60 (s, 1H), 7.89 (d, 2H, J=7 Hz), 7.49 (t, 2H, J=7 Hz), 7.38 (t, 1H, J=7 Hz), and 2.80 (s, 3H). Mass spectrum (ESI) calcd. for C15H13N3OS2: 316.1(M+H). Found: 316.2.

reactant | 5-Methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxamidine hydrochloride | Cl.CSC1=C(C=C(S1)C(=N)N)C=1OC=C(N1)C1=CC=CC=C1
reactant | Methyl 5-methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxylate | CSC1=C(C=C(S1)C(=O)OC)C=1OC=C(N1)C1=CC=CC=C1 | C16H13NO3S2
reactant | ammonium chloride | 2.90 mmol, 155 mg | [Cl-].[NH4+]
reactant | trimethylaluminum | 2.90 mmol, 2 M, 1.45 mL | C[Al](C)C
solvent | toluene | 1.45 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methylthio-4-(4-phenyl(1,3-oxazol-2-yl))thiophene-2-carboxamidine Hydrochloride HCl | 62.2 mg, 82% | Cl.Cl.CSC1=C(C=C(S1)C(=N)N)C=1OC=C(N1)C1=CC=CC=C1 | InChI=1S/C15H13N3OS2.2ClH/c1-20-15-10(7-12(21-15)13(16)17)14-18-11(8-19-14)9-5-3-2-4-6-9;;/h2-8H,1H3,(H3,16,17);2*1H
